US07566712B2
D. 4-(4-(3-Chloro-4-fluorophenyl)-5-methyl-6-{4-[3-(trifluoromethyl)(2-pyridyl)]piperazinyl}pyrimidin-2-yl)morpholine
A mixture of 4-(4-chloro-5-methyl-6-{4-[3-(trifluoromethyl)(2-pyridyl)]piperazinyl}pyrimidin-2-yl)morpholine (66 mg, 0.15 mmol), 3-chloro-4-fluorophenylboronic acid (35 mg, 0.2 mmol), Pd(PPh3)4 (10 mg) and 2M potassium carbonate (0.2 mL) in toluene (3 mL) is heated, under a nitrogen atmosphere, at 80° C. for 4 hours. The reaction mixture is cooled and the layers separated. The aqueous layer is extracted with EtOAc (3×10 mL) and the combined organics washed with 4M NaOH (10 mL), water (10 mL), brine (10 mL), dried (MgSO4) and concentrated under reduced pressure. The residue is purified by flash chromatography on silica gel (70% hexane/30% ether) to give the title compound. MS 537 (M+1).

reactant | 4-(4-chloro-5-methyl-6-{4-[3-(trifluoromethyl)(2-pyridyl)]piperazinyl}pyrimidin-2-yl)morpholine | 0.15 mmol, 66 mg | ClC1=NC(=NC(=C1C)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)N1CCOCC1 | C19H22ClF3N6O
reactant | 3-chloro-4-fluorophenylboronic acid | 0.2 mmol, 35 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | potassium carbonate | 2M, 0.2 mL | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-(3-Chloro-4-fluorophenyl)-5-methyl-6-{4-[3-(trifluoromethyl)(2-pyridyl)]piperazinyl}pyrimidin-2-yl)morpholine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1C)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)N1CCOCC1 | C25H25ClF4N6O
